US05994368
To a suspension of 4-amino-N-methylbenzamide (500 mg) in tetrahydrofuran (5 ml) was added di-tert-butyl dicarbonate (799 mg) and the mixture was stirred for 18 hours at 50° C. The mixture was concentrated and the residue was dissolved in ethyl acetate. The solution was stirred under ice-cooling, and the resulting precipitates were collected by filtration to give N-(tert-butoxycarbonyl)-4-methylcarbamoylaniline (500 mg).

reactant | 4-amino-N-methylbenzamide | 500 mg | NC1=CC=C(C(=O)NC)C=C1 | C8H10N2O
reactant | di-tert-butyl dicarbonate | 799 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-(tert-butoxycarbonyl)-4-methylcarbamoylaniline | 500 mg | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)C(NC)=O | C13H18N2O3
